US07612074B2
1-Ethyl-3-{4-[5-(8-methyl-3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-furan-2-yl]-phenyl}-urea (Compound D1)
To a mixture of [5-(4-amino-phenyl)-furan-2-yl]-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-methanone (0.44 g, 1.41 mmol) and methanol (30 ml) was added: ethylisocyanate (291 mg, 4.08 mmol) at −50° C. and then allowed to reach room temperature. Aqueous sodium hydroxide (5 ml, 1M) was added and the mixture was extracted twice with dichloromethane (2×10 ml). Chromatography on silica gel with dichloromethane, 10% methanol and 1% aqueous ammonia as solvent gave the title compound. Yield 519 mg (96%). The corresponding salt was obtained by addition of a diethyl ether and methanol mixture (9:1) saturated with fumaric acid. Mp. 183.6-186.4° C.

reactant | [5-(4-amino-phenyl)-furan-2-yl]-(8-methyl-3,8-diaza-bicyclo[3.2.1]oct-3-yl)-methanone | 1.41 mmol, 0.44 g | NC1=CC=C(C=C1)C1=CC=C(O1)C(=O)N1CC2CCC(C1)N2C | C18H21N3O2
reactant | ethylisocyanate | 4.08 mmol, 291 mg | C(C)N=C=O | C3H5NO
reactant | sodium hydroxide | 1M, 5 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-Ethyl-3-{4-[5-(8-methyl-3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-furan-2-yl]-phenyl}-urea | C(C)NC(=O)NC1=CC=C(C=C1)C=1OC(=CC1)C(=O)N1CC2CCC(C1)N2C | C21H26N4O3
